US07247727B2
To a suspension of 3-bromo-1H-pyrrolo[2,3-b]pyridine (9.85 g, 50.0 mmol) in THF (300 mL) was added dropwise a 2.5M solution of n-butyllithium in hexanes (42 mL, 105.0 mmol, 2.1 equiv.) at −70° C. The temperature of the reaction mixture was raised to −60° C. during the addition and became a clear solution. The resulting brick red color solution was slowly allowed to warm to −10° C. during a period of 1 h and then stirred for 4 h at this temperature. Again, the mixture was cooled to −70° C. and a solution of dimethylformamide (8.5 mL, 110.0 mmol) in THF (30 mL) was added dropwise. After addition, the mixture was allowed to warm to room temperature and stirred for 15 h. Then, the mixture was diluted with saturated ammonium chloride solution and the two layers were separated. The aqueous layer was extracted with ethyl acetate (2×150 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude brown solid which was dissolved in ethyl acetate (˜70 mL) at hot condition and then stored in the refrigerator overnight. The solids were collected by filtration and washed with ethyl acetate. After drying in air, 6.05 g (83% yield) of 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde was isolated as an yellow solid: EI-HRMS m/e calcd for C8H6N2O (M+) 146.0480. found 146.0478.

reactant | 3-bromo-1H-pyrrolo[2,3-b]pyridine | 50.0 mmol, 9.85 g | BrC1=CNC2=NC=CC=C21 | C7H5BrN2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 110.0 mmol, 8.5 mL | CN(C=O)C | C3H7NO
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | ˜70 mL | C(C)(=O)OCC | C4H8O2
product | 1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 6.05 g, 83% yield | N1C=C(C=2C1=NC=CC2)C=O | C8H6N2O
